US07132426B2
Step 2: Preparation of 4-[8-(4-methylsulfanyl-phenyl)-quinolin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester.
In a 25 mL round-bottomed flask equipped with a reflux condenser and N2 inlet septum was placed a stir bar, 4-(8-chloro-quinolin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (198 mg, 0.57 mmol), 4-methylthiophenylboronic acid (287 mg, 1.7 mmol), tetrakis(triphenylphosphine)palladium (98 mg, 0.085 mmol), 2M sodium carbonate (0.6 mL) and toluene (4 mL). The mixture was refluxed 36 h under N2. The resulting mixture was diluted with ethyl acetate and extracted with H2O. The organic extract was dried and concentrated to give the crude product. The crude product was purified by column chromatography to using 50% EtOAc/Hexane and preparative HPLC to give the desired product. 1H NMR (CDCl3, 400 MHz) δ 1.27 (d, 6H), 2.04 (m, 2H), 2.17 (m, 2H), 2.55 (s, 3H), 3.59 (m, 2H), 3.83 (m, 2H), 4.97 (m, 1H), 5.09 (m, 1H), 7.14 (s, 1H), 7.41 (m, 4H), 7.81 (t, 1H), 7.90 (d, 1H), 8.38 (d, 1H), 9.11 (s, 1H). Exact mass calculated for C25H28N2O3S 436.18, found 437.2 (MH+).

reactant | 4-(8-chloro-quinolin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 0.57 mmol, 198 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=CC=NC2=C(C=CC=C12)Cl | C18H21ClN2O3
reactant | 4-methylthiophenylboronic acid | 1.7 mmol, 287 mg | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | sodium carbonate | 2M, 0.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.085 mmol, 98 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[8-(4-methylsulfanyl-phenyl)-quinolin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=CC=NC2=C(C=CC=C12)C1=CC=C(C=C1)SC | C25H28N2O3S
